US05130322
A solution of 1 g of 2-methoxymethyl-2-methyl-4-(1,2-dihydro-2-oxo-1-pyridyl)-6-amino-3-chromanol in 15 ml of formic acid and 1 ml of pyridine is boiled for 24 hours and evaporated. Customary working up gives 2-methoxymethyl-2-methyl-4-(1,2-dihydro-2-oxo-1-pyridyl)-6-formamido-3-chromanol.

reactant | 2-methoxymethyl-2-methyl-4-(1,2-dihydro-2-oxo-1-pyridyl)-6-amino-3-chromanol | 1 g | COCC1(OC2=CC=C(C=C2C(C1O)N1C(C=CC=C1)=O)N)C | C17H20N2O4
reactant | formic acid | 15 ml | C(=O)O | CH2O2
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | 2-methoxymethyl-2-methyl-4-(1,2-dihydro-2-oxo-1-pyridyl)-6-formamido-3-chromanol | COCC1(OC2=CC=C(C=C2C(C1O)N1C(C=CC=C1)=O)NC=O)C | C18H20N2O5
